US07902252B2
4.32. Synthesis of 6-(4-chlorophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (113)
The title compound was synthesized from ethyl 6-(4-chlorophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.0907 g, 0.34 mmol, 1 equiv) and sodium hydroxide (0.86 mL, 8.6 mmol, 10 M, 25 equiv), according to General Procedure 7. A 2-3:1 mixture of methanol (MeOH) and THF (3-4 mL) was used. The resulting product was purified by preparative HPLC using the Chromeleon purification system. A 0.1% formic acid/1% acetonitrile mixture in water (aqueous phase) and methanol (no modifier added—organic phase) using a 50 mm Dynamax HPLC C-18 column at 28 mL/min (initial gradient of 50% methanol and increasing to 100% over 7 minutes) afforded the title compound (48.3 mg, 59%) with purity by HPLC of 94.1% (UV). LCMS m/e 260.2 (M−H). 1H NMR (400 MHz, METHANOL-d4) δ ppm 2.16-2.30 (m, J=13.14, 8.19, 5.37, 5.37 Hz, 1H), 2.56-2.67 (m, 1H), 2.68-2.79 (m, 1H), 2.86-3.01 (m, 1H), 4.26 (dd, J=8.48, 5.28 Hz, 1H), 6.65 (s, 1H), 7.05-7.13 (m, 2H), 7.22-7.31 (m, 2H).

reactant | ethyl 6-(4-chlorophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.34 mmol, 0.0907 g, 1 equiv | ClC1=CC=C(C=C1)C1CCC2=C1NC(=C2)C(=O)OCC | C16H16ClNO2
reactant | sodium hydroxide | 8.6 mmol, 10 M, 0.86 mL, 25 equiv | [OH-].[Na+]
reactant | methanol | CO | CH4O
solvent | THF | 3-4 mL | C1CCOC1 | C4H8O
product | 6-(4-chlorophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | 48.3 mg, 59% | ClC1=CC=C(C=C1)C1CCC2=C1NC(=C2)C(=O)O | C14H12ClNO2
